US05700809
3-(Benzofuran-5-yl-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine
A suspension of 7-azagramine (180 mg, 1.0 mmol) and 4-benzofuran-5-yl-1,2,3,6-tetrahydropyridine (200 mg, 1.0 mmol) in toluene (5 ml) was heated at 110° C. for 16 h. The resulting hot solution was filtered and allowed to cool. The title compound (180 mg) crystallised and was collected by filtration as a white, crystalline solid, m.p. 168°-70° C.; (Found: C, 75.02; H, 5.81; N, 12.28. C21 H19N3O.0.33.H2O requires C, 75.20; H, 5.91; N, 12.53); δH (DMSO-d6) 2.50 (2H, br s, tetrahydropyridinyl CH2, obscured by solvent), 2.69 (2H, br s, CH2), 3.11 (2H, br s, tetrahydropyridinyl CH2), 3.76 (2H, s, ArCH2N), 6.12 (1H, br s, CH=CR), 6.91 (1H, s, ArH), 7.03 (1H, m, ArH), 7.40 (2H, m, ArH), 7.51 (1H, m, ArH), 7.64 (1H, s, ArH), 7.95 (1H, m, ArH), 8.04 (1H, m, ArH), 8.20 (1H, m, ArH), and 11.47 (1H, br s, NH); m/z (CI+, NH3) 330 (M+H)+.

reactant | 7-azagramine | 1.0 mmol, 180 mg | CN(C)CC1=CNC2=C1C=CC=N2 | C10H13N3
reactant | 4-benzofuran-5-yl-1,2,3,6-tetrahydropyridine | 1.0 mmol, 200 mg | O1C=CC=C2C1=CC=C2N2CCC=CC2 | C13H13NO
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(Benzofuran-5-yl-1,2,3,6-tetrahydropyridin-1-yl)methyl-1H-pyrrolo[2,3-b]pyridine | O1C=CC2=C1C=CC(=C2)C2N(CC=CC2)CC2=CNC1=NC=CC=C12 | C21H19N3O
